US09107923B2
Step 1. Synthesis of 1-(4-methoxy-2-methylphenyl)propan-2-one (C58)
This experiment was carried out four times. Tributyl(methoxy)stannane (400 g, 1.24 mol), 1-bromo-4-methoxy-2-methylbenzene (250 g, 1.24 mol), prop-1-en-2-yl acetate (187 g, 1.87 mol), palladium(II) acetate (7.5 g, 33 mmol) and tri-o-tolylphosphine (10 g, 33 mmol) were stirred together in toluene (2 L) at 100° C. for 18 hours. After it had cooled to room temperature, the reaction mixture was treated with aqueous potassium fluoride solution (4 M, 400 mL) and stirred for 2 hours at 40° C. The resulting mixture was diluted with toluene (500 mL) and filtered through diatomaceous earth; the filter pad was thoroughly washed with ethyl acetate (2×1.5 L). The organic phase from the combined filtrates was dried over sodium sulfate, filtered, and concentrated in vacuo. Purification via silica gel chromatography (Gradient: 0% to 5% ethyl acetate in petroleum ether) provided the product as a yellow oil. Combined yield: 602 g, 3.38 mol, 68%. LCMS m/z 179.0 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 7.05 (d, J=8.3 Hz, 1H), 6.70-6.77 (m, 2H), 3.79 (s, 3H), 3.65 (s, 2H), 2.22 (s, 3H), 2.14 (s, 3H).

reactant | Tributyl(methoxy)stannane | 1.24 mol, 400 g | C(CCC)[Sn](OC)(CCCC)CCCC
reactant | 1-bromo-4-methoxy-2-methylbenzene | 1.24 mol, 250 g | BrC1=C(C=C(C=C1)OC)C | C8H9BrO
reactant | prop-1-en-2-yl acetate | 1.87 mol, 187 g | C(C)(=O)OC(=C)C | C5H8O2
reactant | tri-o-tolylphosphine | 33 mmol, 10 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium fluoride | 4 M, 400 mL | [F-].[K+]
solvent | toluene | 2 L | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 33 mmol, 7.5 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(4-methoxy-2-methylphenyl)propan-2-one | COC1=CC(=C(C=C1)CC(C)=O)C | C11H14O2
